US08609647B2
(13) Optically-Active Compound of 3-[3,3-difluoro-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diaza-spiro[3.5] non-1-yl]-3-oxo-propionitrile
An optically-active compound of 4-(3,3-difluoro-1,6-diaza-spiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine (6.6 g) was mixed with 1-cyanoacetyl-3,5-dimethylpyrazole (7.7 g), N,N-diisopropylethylamine (4.3 ml) and 1,4-dioxane (132 ml), and the mixture was stirred at 100° C. for 2 hours. The mixture was cooled to room temperature. Then, thereto was added water, and the mixture was extracted with ethyl acetate. The separated aqueous layer was further extracted with ethyl acetate 5 times. The combined organic layer was sequentially washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/acetone=3/2 to 2/3). To the resulting residue was added n-heptane, and the mixture was concentrated under reduced pressure. To the resulting residue was added diethylether, and the mixture was slurry-washed and filtered to give a solid (7.5 g). The filtrate was concentrated under reduced pressure. To the resulting residue was added diethylether, and the mixture was slurry-washed to give a solid (0.2 g). The combined solid was purified by silica gel column chromatography (eluent: chloroform/methanol=97/3 to 9/1). To the resulting solid was added ethanol, and the mixture was concentrated under reduced pressure to give the titled compound (7.1 g).

reactant | 4-(3,3-difluoro-1,6-diaza-spiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine | 6.6 g | FC1(CNC12CN(CCC2)C=2C1=C(N=CN2)NC=C1)F | C13H15F2N5
reactant | 1-cyanoacetyl-3,5-dimethylpyrazole | 7.7 g | CC1=CC(=NN1C(=O)CC#N)C | C8H9N3O
reactant | N,N-diisopropylethylamine | 4.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,4-dioxane | 132 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-[3,3-difluoro-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diaza-spiro[3.5] non-1-yl]-3-oxo-propionitrile | 7.5 g | FC1(CN(C12CN(CCC2)C=2C1=C(N=CN2)NC=C1)C(CC#N)=O)F | C16H16F2N6O
